US07371772B2
To a solution of 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-N-[3-methyl-4-[[[1-propylimidazol-5-yl]methyl]sulfanyl]phenyl]-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxamide (370 mg) in dichloromethane (10 ml) was added dropwise a 70% solution of 3-chloro-perbenzoic acid (144 mg) in dichloromethane (10 ml) at −78° C. After stirring as such for 1 hour, the dry ice-acetone bath was removed, and an aqueous sodium thiosulfate solution was added with vigorous stirring. The mixture was returned to room temperature and stirred for 30 minutes, after which water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous saturated sodium bicarbonate solution and saturated brine, and was dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was separated and purified with basic silica gel column chromatography (ethyl acetate→methanol:ethyl acetate=1:40) and recrystallized from hexane-ethyl acetate to give 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-N-[3-methyl-4-[[[1-propylimidazol-5-yl]methyl]sulfinyl]phenyl]-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxamide (289 mg) as yellow crystals (Compound 39).

reactant | 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-N-[3-methyl-4-[[[1-propylimidazol-5-yl]methyl]sulfanyl]phenyl]-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxamide | 370 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2CC(C)C)C(=O)NC2=CC(=C(C=C2)SCC2=CN=CN2CCC)C)C1 | C42H54N4O3S
reactant | 3-chloro-perbenzoic acid | 144 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 8-[4-(2-butoxyethoxy)phenyl]-1-isobutyl-N-[3-methyl-4-[[[1-propylimidazol-5-yl]methyl]sulfinyl]phenyl]-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxamide | 289 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCCN2CC(C)C)C(=O)NC2=CC(=C(C=C2)S(=O)CC2=CN=CN2CCC)C)C1 | C42H54N4O4S
